US08865726B2
To a solution of toluene (50 mL) cooled to −78° C. was added 2.5 M butyllithium in hexanes (6.31 mL, 15.1 mmol) and the reaction mixture was stirred until the temperature returned to −78° C. 3-Bromopyridine (1.88 g, 11.9 mmol) in toluene (5 mL) was added to the reaction mixture a rate such that the temperature never went above −65° C., and then the reaction was stirred at −78° C. for 1 hour. (S,E)-N-(2-(tert-Butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide (3.00 g, 10.8 mmol) in toluene (1 mL) was added to the reaction mixture at a rate such that the temperature did not exceed −70° C., and then the reaction was stirred at −78° C. for 2 hours. To the −78° C. solution was added brine and the mixture partitioned between ETOAc/water. The organic layer was washed with brine, dried (phase separator silicone treated filter paper), concentrated and purified on silica gel (15-80% EtOAc in DCM) to provide (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (0.862 g, 22% yield) as a yellow oil.

reactant | butyllithium | 2.5 M | C(CCC)[Li]
reactant | 3-Bromopyridine | 11.9 mmol, 1.88 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | (S,E)-N-(2-(tert-Butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide | 10.8 mmol, 3.00 g | [Si](C)(C)(C(C)(C)C)OC\C=N\[S@@](=O)C(C)(C)C | C12H27NO2SSi
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (S)—N—((S)-2-(tert-butyldimethylsilyloxy)-1-(pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.862 g, 22% yield | [Si](C)(C)(C(C)(C)C)OC[C@H](C=1C=NC=CC1)N[S@@](=O)C(C)(C)C | C17H32N2O2SSi
